US04791225
2-Bromo-3,4-difluoro-6-nitroaniline
Into a solution of 4,5-difluoro-2-nitroaniline (3.7 g) in acetic acid (27 ml) was added bromine (6.8 g) dropwise at 50° to 56° C. and stirred for 2.5 hours. The reaction mixture was poured into ice water (60 ml) and the resulting precipitate was collected by filtration and washed with water sufficiently to give the title compound (4.7 g) as yellow prisms, mp 105° C.

reactant | 4,5-difluoro-2-nitroaniline | 3.7 g | FC1=CC(=C(N)C=C1F)[N+](=O)[O-] | C6H4F2N2O2
reactant | bromine | 6.8 g | BrBr | Br2
solvent | acetic acid | 27 ml | C(C)(=O)O | C2H4O2
product | 2-Bromo-3,4-difluoro-6-nitroaniline | 4.7 g | BrC1=C(N)C(=CC(=C1F)F)[N+](=O)[O-] | C6H3BrF2N2O2
